US04708733
Preparation of diethyl-2-(2',4'-dichlorophenoxy)-propionyl-malonate
A mixture of 25 g of 2-(2',4'-dichloro-phenoxy)-propionyl chloride and 30 ml of ether is added dropwise to a 35% etheral solution of magnesium-diethyl malonate prepared from 17.6 g of diethyl malonate. When the addition of the acid chloride is completed the reaction mixture is heated to boiling for an hour and worked up as described in Example 1. Thus 29 g of the desired compound are obtained in the form of a yellow oil, yield 76%, nD25 =1,355.

reactant | 2-(2',4'-dichloro-phenoxy)-propionyl chloride | 25 g | ClC1=C(OC(C(=O)Cl)C)C=CC(=C1)Cl | C9H7Cl3O2
reactant | magnesium diethyl malonate | [Mg].C(CC(=O)OCC)(=O)OCC
reactant | diethyl malonate | 17.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | ether | 30 ml | CCOCC | C4H10O
product | diethyl-2-(2',4'-dichlorophenoxy)-propionyl-malonate | 29 g, yield 76% | C(C)OC(C(C(=O)OCC)C(C(C)OC1=C(C=C(C=C1)Cl)Cl)=O)=O | C16H18Cl2O6
